US09079889B2
To a solution of 2-bromo-3-fluoro-6-methylpyridine (1.0 equiv.) in dioxane (0.2 M) was added 2,3,5-trifluorophenylboronic acid and Pd(dppf)Cl2-DCM (0.1 equiv.). Aqueous sodium carbonate (2M solution, 2.0 equiv.) was added and the reaction was heated in the microwave at 120° C. for 15 min. The solution was partitioned between ethyl acetate and sat. NaHCO3, the organic phase was washed with brine, dried with magnesium sulfate, filtered, and concentrated. The crude material was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:3) to give 3-fluoro-6-methyl-2-(2,3,5-trifluorophenyl)pyridine in 87% yield. LC/MS=242.1 (M+H), Rt=0.98 min.

reactant | 2-bromo-3-fluoro-6-methylpyridine | 1.0 equiv. | BrC1=NC(=CC=C1F)C | C6H5BrFN
reactant | 2,3,5-trifluorophenylboronic acid | FC1=C(C=C(C=C1F)F)B(O)O | C6H4BF3O2
reactant | sodium carbonate | 2M, 2.0 equiv. | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 0.2 M | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 DCM | 0.1 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-fluoro-6-methyl-2-(2,3,5-trifluorophenyl)pyridine | 87% yield | FC=1C(=NC(=CC1)C)C1=C(C(=CC(=C1)F)F)F | C12H7F4N
